US05508063
20.7 g of pentachlorotantalum was dispersed in 100 ml of toluene, to which 88.5 ml of isopropyl alcohol was added dropwise in a nitrogen gas atmosphere. The resultant solution was stirred at room temperature for 1.5 hours, and was then heated to 45° C. to remove the solvent therefrom by distillation. As a result, 24.8 g of dichlorotriisopropoxytantalum [TaCl2 (OCH(CH3)2)3 ] was obtained as a residue in the form of white solid.

reactant | pentachlorotantalum | 20.7 g | Cl[Ta](Cl)(Cl)(Cl)Cl
reactant | isopropyl alcohol | 88.5 ml | C(C)(C)O | C3H8O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | dichlorotriisopropoxytantalum | 24.8 g | Cl[Ta](OC(C)C)(OC(C)C)(OC(C)C)Cl | InChI=1S/3C3H7O.2ClH.Ta/c3*1-3(2)4;;;/h3*3H,1-2H3;2*1H;/q3*-1;;;+5/p-2
